** sch_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_tb.sch
**.subckt PFD_tb
Vref CRef_prebuf GND dc 0 ac 0 pulse(0 {Vph} {T/2} 10n 10n {T/2} {T})
Vco CVco GND dc 0 ac 0 pulse(1u {Vp} {dly} 10n 10n {T/2} {T})
Vp net1 GND dc {Vp}
C1 UP GND 5p
C2 DOWN GND 5p
x1 GND net1 CRef UP DOWN CVco PFD_cell
x2 net1 CRef_prebuf CRef GND buffer_hv
**** begin user architecture code
 .lib cornerMOSlv.lib mos_ss

.inc /foss/designs/CHIP-PLL/layout/extraction/PFD_cell.pex.spice

.temp=25
.param T = 31.25u
.param dly=1u
.param Vp=1.2
.param Vph=3.3
.control
save all
tran 25n 200u

meas tran pw_up avg v(UP) from=100u to=200u
meas tran pw_down avg v(DOWN) from=100u to=200u
plot v(pw_up) v(pw_down)
write PFD_tb.raw
.endc


 .lib cornerMOShv.lib mos_ss

**** end user architecture code
**.ends



* expanding   symbol:  CHIP-PLL/schematics/misc/buffer_hv.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/schematics/misc/buffer_hv.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/misc/buffer_hv.sch
.subckt buffer_hv vph in out gd
*.ipin in
*.opin out
*.ipin vph
*.ipin gd
XM1 buf_stage_1 in vph vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM2 buf_stage_1 in gd gd sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM3 out buf_stage_1 vph vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM4 out buf_stage_1 gd gd sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
.ends



.GLOBAL GND
.end
